US09303012B2
a) 3-(2-Chloro-6-methylpyridin-3-yl)oxetan-3-ol
In analogy to the procedure described in Example 130 a), 3-bromo-2-chloro-6-methylpyridine (CAN 185017-72-5, 5 g, 24.2 mmol) was reacted with oxetan-3-one (CAN 6704-31-0, 1.75 g, 1.42 mL, 24.2 mmol) to give the title compound (3.42 g, 71%) as off-white solid, MS (ESI): m/e=200.5 [MH+].

reactant | 3-bromo-2-chloro-6-methylpyridine | 24.2 mmol, 5 g | BrC=1C(=NC(=CC1)C)Cl | C6H5BrClN
reactant | oxetan-3-one | 24.2 mmol, 1.42 mL, 1.75 g | O1CC(C1)=O | C3H4O2
product | 3-(2-Chloro-6-methylpyridin-3-yl)oxetan-3-ol | 3.42 g, 71% | ClC1=NC(=CC=C1C1(COC1)O)C | C9H10ClNO2
